US04041058
A mixture of 1 g. (4.31 mmoles) of rac. 1-benzyloxy-2-methylhept-5-yn-4-ol, 0.1 g. of Lindlar catalyst, 0.04 ml. of quinoline and 30 ml. of hexane was stirred in an atmosphere of hydrogen, at room temperature, for 40 minutes during which time approximately one equivalent of hydrogen was taken up. The catalyst was filtered and washed with hexane then the combined filtrate and washes were concentrated in vacuo giving 1.05 g. of oily product. This material was chromatographed on 50 g. of silica gel. Elution with 2:1 parts by volume and 1:1 parts by volume hexane-ether afforded 0.844 g. of a pale yellow oil. Evaporative distillation gave rac. Z-1-benzyloxy-2-methyl-5-hepten-4-ol as a colorless oil, b.p. 113°-123° C. (bath temperature) (0.25 mm Hg.).

reactant | rac. 1-benzyloxy-2-methylhept-5-yn-4-ol | 4.31 mmoles | C(C1=CC=CC=C1)OCC(CC(C#CC)O)C | C15H20O2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | approximately one equivalent | [H][H] | H2
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | hexane | CCCCCC | C6H14
product | rac. Z-1-benzyloxy-2-methyl-5-hepten-4-ol | C(C1=CC=CC=C1)OCC(CC(\C=C/C)O)C | C15H22O2
